US06846819B1
a) 1,3-Dimethyl-1H-indole
To a stirred solution of 3-methylindole (15.0 g, 114 mmole) in dry DMF (200 mL) was added NaH (60% dispersion in oil, 5.0 g, 125 mmole) in portions. Gas evolution was observed. The mixture was stirred for 30 min, then iodomethane (8 mL, 129 mmole) was added in one portion. The reaction became exothermic and was cooled in an ice bath. After 16 hr at RT, the reaction was concentrated under vacuum and the residue was taken up in ethyl acetate. The solution was washed with H2O then with brine, dried (MgSO4), and concentrated to dryness. Purification by short path distillation under vacuum (bp 88-92° C.,0.5 mmHg) gave the title compound (16.10 g, 97%) as apale yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.47 (d, J=7.9 Hz,1H), 7.35 (d, J=8.2 Hz,1H), 7.13 (t,1H), 7.06 (s,1H), 7.00 (t,1H), 3.71 (s, 3H), 2.24 (s, 3H).

reactant | 3-methylindole | 114 mmole, 15.0 g | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | NaH | 125 mmole, 5.0 g | [H-].[Na+]
reactant | iodomethane | 129 mmole, 8 mL | IC | CH3I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1,3-Dimethyl-1H-indole | 16.10 g, 97% | CN1C=C(C2=CC=CC=C12)C | C10H11N
